US07176310B1
5. (S)-2-[5-(4-Fluorophenylcarbamoyl)pyrimidin-2-yloxy]propionic acid methyl ester
To a solution of 2-methanesulfinylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide (40 mg, 0.14 mmol) in THF (1 mL) was added (R)-(+)-methyl lactate (20 μL, 0.21 mmol) followed by DBU (34 μL, 0.23 mmol). The solution was stirred for 2 days, quenched with 3% HCl and extracted with ethyl acetate. The organic layers were combined, washed successively with 5% NaHCO3, water, and brine, dried and concentrated in vacuo to afford 19.9 mg (46% yield) of the titled compound as a white solid shown to be 94% pure by HPLC. ESI-MS m/z 320 (MH+), 318 (M−H)−.

reactant | 2-methanesulfinylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide | 0.14 mmol, 40 mg | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)S(=O)C | C12H10FN3O2S
reactant | (R)-(+)-methyl lactate | 0.21 mmol, 20 μL | C([C@H](O)C)(=O)OC | C4H8O3
reactant | DBU | 0.23 mmol, 34 μL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (S)-2-[5-(4-Fluorophenylcarbamoyl)pyrimidin-2-yloxy]propionic acid methyl ester | 19.9 mg, 46% yield | COC([C@H](C)OC1=NC=C(C=N1)C(NC1=CC=C(C=C1)F)=O)=O | C15H14FN3O4
